US08937092B2
To a stirred solution of 2-(3-chloro-4-cyanophenyl)propanoic acid (95 mg, 0.454 mmol) and (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (121 mg, 0.454 mmol) in acetonitrile were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (131 mg, 0.681 mmol), 1-hydroxybenzotriazole (92 mg, 0.681 mmol) and triethylamine (0.16 mL, 1.135 mmol). The reaction mixture was stirred for 15 h at room temperature. The residue dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. 2-(3-chloro-4-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (182 mg) was obtained as 88% yield.

reactant | 2-(3-chloro-4-cyanophenyl)propanoic acid | 0.454 mmol, 95 mg | ClC=1C=C(C=CC1C#N)C(C(=O)O)C | C10H8ClNO2
reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 0.454 mmol, 121 mg | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 0.681 mmol, 131 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.681 mmol, 92 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.135 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-chloro-4-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 182 mg, 88% yield | ClC=1C=C(C=CC1C#N)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H19ClF3N3O
